US08633200B2
To a stirred solution of methyl 2-(2-(3-chlorophenyl)-7-cyclohexyl-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)-2-oxoacetate (0.094 g, 0.205 mmol) in toluene (3 mL) was added 1M (R)-1-methyl-3,3-diphenylhexahydropyrrolo[1,2-c][1,3,2]oxazaborole/toluene (0.041 ml, 0.041 mmol) at rt and cooled to −35° C. To this was added dropwise 1M catecholborane/THF (0.288 ml, 0.288 mmol) over 10 min. After stirring 30 min, the reaction mixture was slowly warm to −15° C. over 30 min and diluted with EtOAc (15 mL). Then, the mixture was vigorously stirred with sat Na2CO3 (2 mL) for 45 min. The aq layer separated and org layer washed with sat sat Na2CO3 (2×5 mL), dried (Na2SO4), filtered, concentrated and the resulting yellow residue purified by prep-HPLC to afford (S)-methyl 2-(2-(3-chlorophenyl)-7-cyclohexyl-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)-2-hydroxyacetate (0.0705 g, 0.170 mmol, 83% yield) as yellow solid. LCMS (M+H) calcd for C22H25ClN3O3: 414.16. found: 414.3.

reactant | methyl 2-(2-(3-chlorophenyl)-7-cyclohexyl-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)-2-oxoacetate | 0.205 mmol, 0.094 g | ClC=1C=C(C=CC1)C1=NN2C(N=C(C(=C2C2CCCCC2)C(C(=O)OC)=O)C)=C1 | C22H22ClN3O3
reactant | (R)-1-methyl-3,3-diphenylhexahydropyrrolo[1,2-c][1,3,2]oxazaborole toluene | 0.041 mmol, 1M, 0.041 ml | CB1OC([C@@H]2N1CCC2)(C2=CC=CC=C2)C2=CC=CC=C2.C1(=CC=CC=C1)C
reactant | catecholborane THF | 0.288 mmol, 1M, 0.288 ml | [B]1OC2=CC=CC=C2O1.C1CCOC1
reactant | Na2CO3 | 2 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
product | (S)-methyl 2-(2-(3-chlorophenyl)-7-cyclohexyl-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)-2-hydroxyacetate | 0.170 mmol, 0.0705 g, 83% yield | ClC=1C=C(C=CC1)C1=NN2C(N=C(C(=C2C2CCCCC2)[C@@H](C(=O)OC)O)C)=C1 | C22H24ClN3O3
